US05824802
7. Preparation of 2-Chloro-3-(2-methoxyethylamino)-4-methylsulfonylbenzoic Acid
A solution of 5.0 g (19 mmol) of 2,3-dichloro-4-methylsulfonylbenzoic acid in 50 mL of 60 percent aqueous 2-methoxyethylamine was heated at reflux with stirring for 4 days. The dark mixture was then acidified with aqueous hydrochloric acid and extracted with dichloromethane. The extract was dried over magnesium sulfate and concentrated by evaporation under reduced pressure to obtain 8 g of the title compound as an impure dark oil. A 5.7 g portion of the this was converted to the methyl ester by refluxing overnight in 100 mL of a 50:1 mixture of methanol and concentrated sulfuric acid. The volatiles were removed by evaporation under reduced pressure and the residue obtained was partitioned between diethyl ether and water. The ethereal phase was dried over magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was purified by flash column chromatography eluting with a mixture of ethyl acetate and hexane. The product fractions were then hydrolyzed by heating with stirring in 70 mL of a 5:2 mixture of methanol and 1N aqueous sodium hydroxide solution. The methanol was removed by evaporation under reduced pressure. The aqueous residue was washed with diethyl ether, acidified with concentrated hydrochloric acid and extracted with dichloromethane. The dichloromethane extract was dried over magnesium sulfate and concentrated by evaporation under reduced pressure to obtain 2.8 g the title compound as a light green solid.

reactant | 2,3-dichloro-4-methylsulfonylbenzoic acid | 19 mmol, 5.0 g | ClC1=C(C(=O)O)C=CC(=C1Cl)S(=O)(=O)C | C8H6Cl2O4S
reactant | hydrochloric acid | Cl | ClH
reactant | 2-methoxyethylamine | 50 mL | COCCN | C3H9NO
product | 2-Chloro-3-(2-methoxyethylamino)-4-methylsulfonylbenzoic Acid | 8 g | ClC1=C(C(=O)O)C=CC(=C1NCCOC)S(=O)(=O)C | C11H14ClNO5S
